US04145433
To an ice cooled solution of 54 g (0.5 mol) of benzyl alcohol and 75.75 g (104.3 ml, 0.75 mol) of triethylamine in 1800 ml of dichloromethane is added dropwise 63 g (42.57 ml, 0.55 mol) of methanesulfonyl chloride. The temperature of the reaction mixture during the addition is ca. 10°. The reaction mixture is then stirred for 1.5 hours at 10°. The reaction mixture is then diluted with dichloromethane, washed with ice water, cold 10% HCl, saturated KHCO3, saturated NaCl and dried (MgSO4). Solvent is removed in vacuo to yield the benzyl methanesulfonate as an oil.

reactant | benzyl alcohol | 0.5 mol, 54 g | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 0.75 mol, 104.3 ml, 75.75 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.55 mol, 42.57 ml, 63 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 1800 ml | ClCCl | CH2Cl2
product | benzyl methanesulfonate | CS(=O)(=O)OCC1=CC=CC=C1 | C8H10O3S
